US07939665B2
A mixture of Lysergol (1.5 g) and Palladium on carbon (5%, 50% wet, 75 mg) in N,N-dimethylformamide (15 mL) is hydrogenated at 50-60° C. and 40-50 psi until the theoretical volume of hydrogen has been absorbed. The reaction mixture is cooled, filtered and the insoluble material is washed with more N,N-dimethylformamide. The filtrate is evaporated to dryness and suspended with water. The resulting suspension is filtered, washed with more water. The solid is dried under vacuum to give 1.47 g of dihydrolysergol in 97% yield.

reactant | Lysergol | 1.5 g | OC[C@H]1CN(C)[C@@H]2CC3=CNC4=CC=CC(C2=C1)=C34 | C16H18N2O
catalyst | Palladium on carbon | 75 mg | [Pd] | Pd
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | dihydrolysergol | 1.47 g, 97% yield | OC[C@H]1CN(C)[C@@H]2CC3CNC4=CC=CC(C2=C1)=C34 | C16H20N2O
